US08314117B2
tert-butyl (5S,6S,9R)-9-amino-6-(2,3-difluorophenyl)-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridin-5-ylcarbamate.
A Methylene chloride (1 mL) solution of tert-butyl (5S,6S,9R)-6-(2,3-difluorophenyl)-9-(4-(2-oxo-3-((2-(trimethylsilyl)ethoxy)methyl)-2,3-dihydro-1H-imidazo[4,5-b]pyridin-1-yl)piperidine-1-carboxamido)-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridin-5-ylcarbamate (12 mg, 0.016 mmol) in TFA (0.5 ml, 6.5 mmol) was stirred at room temperature overnight. The solvent was removed via vacuum and the crude residue was partitioned between ethyl acetate and Sodium bicarbonate (sat). The ethyl acetate layer was separated, dried (sodium sulfate) and concentrated. The desired product was obtained by prep TLC eluting with 10% methanol in methylene chloride:

reactant | tert-butyl (5S,6S,9R)-6-(2,3-difluorophenyl)-9-(4-(2-oxo-3-((2-(trimethylsilyl)ethoxy)methyl)-2,3-dihydro-1H-imidazo[4,5-b]pyridin-1-yl)piperidine-1-carboxamido)-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridin-5-ylcarbamate | 0.016 mmol, 12 mg | FC1=C(C=CC=C1F)[C@H]1[C@@H](C=2C(=NC=CC2)[C@@H](CC1)NC(=O)N1CCC(CC1)N1C(N(C2=NC=CC=C21)COCC[Si](C)(C)C)=O)NC(OC(C)(C)C)=O | C39H51F2N7O5Si
reactant | TFA | 6.5 mmol, 0.5 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | Methylene chloride | 1 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl (5S,6S,9R)-9-amino-6-(2,3-difluorophenyl)-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridin-5-ylcarbamate | N[C@@H]1CC[C@H]([C@@H](C=2C1=NC=CC2)NC(OC(C)(C)C)=O)C2=C(C(=CC=C2)F)F | C21H25F2N3O2
